US06316477B1
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(2,5-dihydro-2-methyl-1,2,4-oxadiazol-3-yl)-4-trifluoromethylsulfinylpyrazole (Compound No. 5-11)
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(N-hydroxy-N-methylamidino)-4-trifluoromethylsulfinylpyrazole(1.00 g, 2.07 mmol) was dissolved in 10 ml of acetonitrile, and then aqueous 37% formaldehyde solution 840 mg (10.3 mmol) and 5 drops of acetic acid were added. After the mixture was stirred at 50° C. for 5 hours, aqueous 37% formaldehyde solution 840 mg (10.3 mmol) and, 5 drops of acetic acid were further added, followed by stirring at 50° C. for 5 hours. The reaction mixture was concentrated in vacuo and to the residual oil was added ethyl acetate, and then washed twice with an aqueous saturated sodium hydrogencarbonate solution, once with an aqueous saturated sodium chloride solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off. The resulting concentrated residue was purified by silica gel column chromatography [eluent: mixed solvent of ethyl acetate and n-hexane (volume ratio=1:2)] to obtain 260 mg (0.52 mmol) of the title compound as a colorless crystal. Yield 25%.

reactant | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(N-hydroxy-N-methylamidino)-4-trifluoromethylsulfinylpyrazole | 2.07 mmol, 1.00 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(N(C)O)=N)S(=O)C(F)(F)F | C13H9Cl2F6N5O2S
reactant | formaldehyde | 10.3 mmol, 840 mg | C=O | CH2O
reactant | formaldehyde | 10.3 mmol, 840 mg | C=O | CH2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(2,5-dihydro-2-methyl-1,2,4-oxadiazol-3-yl)-4-trifluoromethylsulfinylpyrazole | 0.52 mmol, 260 mg, Yield 25% | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C=1N(OCN1)C)S(=O)C(F)(F)F | C14H9Cl2F6N5O2S
